US06468718B1
25 g (0.13 mol) of 1-aminoanthracene was dissolved in 120 ml of ethyl acetate at room temperature. To this solution was added 0.61 g (5 millimols) of 4-dimethylaminopyridine and, under stirring, a mixed solution of 24.6 g (0.16 mol) of methacrylic acid anhydride and 30 ml of ethyl acetate was added dropwise thereto over about 5 minutes. Thereafter, the reaction mixture solution was stirred at 50° C. for 3 hours, then cooled to room temperature, followed by collecting the precipitate formed by filtration. The precipitate was washed twice with ethyl acetate, then dried under vacuum to obtain the end product of 1-methacryloylaminoanthracene. Yield was 18.6 g (60%). Further, about 9 g of the end product was obtained from the filtrate. Measurement of the UV absorption in methanol revealed that molar extinction coefficient at 248 nm was 4.1×104.

reactant | 1-aminoanthracene | 0.13 mol, 25 g | NC1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H11N
reactant | methacrylic acid anhydride | 0.16 mol, 24.6 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 5 millimols, 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-methacryloylaminoanthracene | C(C(=C)C)(=O)NC1=CC=CC2=CC3=CC=CC=C3C=C12 | C18H15NO
